US04374139
(-)-3-Acetyl-N-methylmorphinan d-tartrate, 4.30 g was suspended in 20 ml water and made basic with concentrated ammonium hydroxide. The resulting suspension was extracted with ether (2×40 ml). The ether extracts were washed with water and dried over magnesium sulfate. Removal of the solvent gave 2.8 g (99%) of (-)-3-acetyl-N-methylmorphinan. For analysis, a sample of this compound was distilled, bp 175°-185° (0.2 mm), [α]25D-47.14° (c 1.17, MeOH).

reactant | (-)-3-Acetyl-N-methylmorphinan d-tartrate | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.C(C)(=O)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 20 ml | O | H2O
product | (-)-3-acetyl-N-methylmorphinan | 2.8 g, 99% | C(C)(=O)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C19H25NO
